US09326987B2
6-(1H-Indol-4-yl)-4-[5-(1-methylethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole
6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole (1:1) (100 mg, 0.084 mmol) and 2-methylpropanoyl chloride (0.175 ml, 1.672 mmol) in chloroform (4 ml), were heated under microwave irradiation at 100° C. for 30 mins, followed by 100° C. for 30 mins, followed by 100° C. for 1 h. The reaction mixture was treated with isopropanol (1 ml) then blown to dryness. The solid was dissolved in isopropanol (2 ml) and dichloromethane (2 ml) and absorbed onto Florisil. The Florisil was placed on top of a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane. The appropriate fractions combined and concentrated to give a yellow solid, 35 mg. The solid was treated with isopropanol (1 ml) and 2M aqueous sodium hydroxide (1.003 ml) and stirred at 20° C. for 20 h. The mixture was then treated with 2M aqueous hydrochloric acid (1 ml), blown to dryness and slurried in isopropanol (2 ml) and dichloromethane (1 ml) with sonication. The mixture was absorbed onto Florisil, loaded onto a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane. Fractions did not collect, so the waste was evaporated to dryness, the residue dissolved in dichloromethane (2 ml) and loaded onto a silica cartridge (10 g) and purified by column chromatography, eluting with 0-100% ethyl acetate/cyclohexane. Appropriate fractions were combined and evaporated to give the title compound as a white film (11 mg).

reactant | 6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole 6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole | 0.084 mmol, 100 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=NN=NN1.N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=NN1
reactant | 2-methylpropanoyl chloride | 1.672 mmol, 0.175 ml | CC(C(=O)Cl)C | C4H7ClO
reactant | sodium hydroxide | 2M, 1.003 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 1 ml | Cl | ClH
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 1 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 1 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 6-(1H-Indol-4-yl)-4-[5-(1-methylethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)C(C)C | C20H17N5O
